US04317823
2 g of chloroacetyl chloride and 2 g of triethylamine are added dropwise at the same time over the course of 40 minutes to a boiling solution of 2.3 g of 1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one in 30 ml of absolute dioxane, and the mixture is stirred for a further 3 hours. It is then allowed to cool and is filtered; the filtrate is concentrated to dryness and chromatographed over a silica gel column by means of a 1:1 mixture of petroleum ether and ethyl acetate, and the product is recrystallized from toluene to yield 2.0 g of 4-chloroacetyl-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one, mp 246° to 248° C. (dec.).

reactant | chloroacetyl chloride | 2 g | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 2 g | C(C)N(CC)CC | C6H15N
reactant | 1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one | 2.3 g | CN1N=C(C=2NC3=C(NC(C21)=O)C=CC=C3)C | C12H12N4O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-chloroacetyl-1,3-dimethyl-1,4,9,10-tetrahydropyrazolo[4,3-b][1,5]benzodiazepin-10-one | 2.0 g | ClCC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)N(N=C2C)C | C14H13ClN4O2
